US04705558
Methyl [[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]-1-(2-pyridinyl)-1H-pyrazole-4-carboxylate
280 mg of Methyl 3-(aminosulfonyl)-1-(2-pyridin-yl)-1H-pyrazole-4-carboxylate and phenyl(4,6-dimethoxy-2-pyrimidinyl)carbamate were dissolved in 10 mL of acetonitrile. 1,8-Diazabicyclo[5.4.0]undec-7-ene, 0.15 mL, was added, and the reaction was stirred one hour. The solution was diluted with 30 mL of ice-water and made acidic with concentrated hydrochloric acid. The solid that separated was collected to afford 260 mg of the title compound melting 183°-188° C.

reactant | Methyl 3-(aminosulfonyl)-1-(2-pyridin-yl)-1H-pyrazole-4-carboxylate | 280 mg | NS(=O)(=O)C1=NN(C=C1C(=O)OC)C1=NC=CC=C1 | C10H10N4O4S
reactant | phenyl(4,6-dimethoxy-2-pyrimidinyl)carbamate | C1(=CC=CC=C1)OC(NC1=NC(=CC(=N1)OC)OC)=O | C13H13N3O4
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Methyl [[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]-1-(2-pyridinyl)-1H-pyrazole-4-carboxylate | 260 mg | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=NN(C=C1C(=O)OC)C1=NC=CC=C1 | C17H17N7O7S
